US06686371B2
2,7-dihydroxy-11H-benzo[b]fluorene:
11 ml 3-methoxybenzyl magnesiumchloride (1M in diethyl ether) was added to 23 (7.5 mmol) in 100 ml diethyl ether at 0° C. and the reaction mixture was stirred for 1 hour at 20° C. The mixture was poured into sat. NH4Cl(aq), extracted with ethyl acetate and dried over MgSO4. After evaporation of the solvent the crude product was purified by chromatography (heptane/ethyl acetate) on silica gel. The pure fractions were combined and concentrated. The resulting product was taken up in 50 ml methanol and treated with BF3.Et2O (21 mmol). After 15 minutes the temperature was raised to 60° C. and 1 hour later the reaction mixture was poured into water, extracted with CH2Cl2 and the organic layer washed with NaHCO3 (aq). The extract was dried over MgSO4, concentrated and the residue was purified on silica gel (heptane/ethyl acetate) affording pure 24 in 34% yield.(Rf=0.54 heptane/ethyl acetate (3:2)). A suspension of 24 (0.22 mmol) and Raney nickel (washed with ethanol, 1 g) in 7 ml ethanol was stirred for 2 hours at 50° C. The Raney nickel was filtered off and the filtrate concentrated. The residue (0.08 mmol) was taken up in 1.5 ml CH2Cl2 and BBr3 (0.23 mmol) was added. After 2 hours the mixture was carefully poured into sat. NaHCO3(aq) and extracted with ethyl acetate. The organic layer was dried over MgSO4 and concentrated. Purification on silica (toluene/ethyl acetate) afforded pure 25 in 56% yield.(Rf=0.40 toluene/ethyl acetate (4:1)); ESI-MS: M+H=249.2, M−H=247.0.

reactant | 3-methoxybenzyl magnesiumchloride | 1M, 11 ml | COC=1C=C(C[Mg]Cl)C=CC1
reactant | NH4Cl | [NH4+].[Cl-]
reactant | BF3.Et2O | 21 mmol | B(F)(F)F.CCOCC
reactant | BBr3 | 0.23 mmol | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
catalyst | Raney nickel | 1 g | [Ni] | Ni
solvent | ethanol | 7 ml | C(C)O | C2H6O
solvent | CH2Cl2 | 1.5 ml | C(Cl)Cl | CH2Cl2
solvent | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
solvent | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
solvent | water | O | H2O
product | 2,7-dihydroxy-11H-benzo[b]fluorene | 34% yield | OC=1C=CC=2C=3C=C4C(=CC3CC2C1)C=CC(=C4)O | C17H12O2
